US09227933B2
(S)-3-[(S)-1-(3-Chloro-2-methylphenoxy)but-3-enyl]-pyrrolidine
(S)-3-((S)-1-Hydroxy-but-3-enyl)pyrrolidine-1-carboxylic acid t-butyl ester (31 mg, 130 μmol) was dissolved in DMF (470 μL, 6.1 mmol). 60% Sodium hydride in oil (0.4:0.6, sodium hydride:mineral oil, 10.1 mg, 169 μmol) was carefully added, and the mixture allowed to stand for 15 minutes. 2-Chloro-6-fluorotoluene (47.0 μL, 390 μmol) was added. The mixture was stirred at 70° C. for 3 hours. The reaction was quenched with MeOH, and the solvent was removed. 1.2M HCl in EtOH (630 μL, 760 μmol) was added, and the mixture was stirred overnight. The product was concentrated and purified by preparative HPLC to yield the title compound as a mono-TFA salt (1 mg, 100% purity). MS m/z: [M+H]+ calcd for C15H20C1NO, 266.12. found 266.0.

reactant | (S)-3-((S)-1-Hydroxy-but-3-enyl)pyrrolidine-1-carboxylic acid t-butyl ester | 130 μmol, 31 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](CC=C)O | C13H23NO3
reactant | DMF | 6.1 mmol, 470 μL | CN(C)C=O | C3H7NO
reactant | Sodium hydride | [H-].[Na+]
reactant | 2-Chloro-6-fluorotoluene | 390 μmol, 47.0 μL | ClC1=C(C(=CC=C1)F)C | C7H6ClF
reactant | HCl | 1.2M | Cl | ClH
reactant | EtOH | 760 μmol, 630 μL | CCO | C2H6O
product | (S)-3-[(S)-1-(3-Chloro-2-methylphenoxy)but-3-enyl]-pyrrolidine | ClC=1C(=C(O[C@@H](CC=C)[C@@H]2CNCC2)C=CC1)C | C15H20ClNO
